2128-01-24 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2128-1-24**] 03:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-24**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 116 (108 - 136) bpm
   BP: 81/54(60) {79/46(60) - 103/56(65)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             850 mL
   PO:
             TF:
   IVF:
   850 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,030 mL
   Urine:
   980 mL
   NG:
   Stool:
   Drains:
   50 mL
   Balance:
                                                                      0 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///16/
   Physical Examination
   GENERAL: Pleasant, well appearing Caucasian Male in NAD
   HEENT: No scleral icterus. EOMI. MMM.
   CARDIAC: Irregularly, irregular, S1, S2, borderline tachy (110s)LUNGS:
   CTAB, good air movement biaterally.
   ABDOMEN: RLQ Ostomy noted with drain in place. B/l quadrants have JP
   drains. Abd dressing c/d/i.
   EXTREMITIES: No edema
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   192 K/uL
   10.2 g/dL
   126 mg/dL
   1.7 mg/dL
   16 mEq/L
   4.7 mEq/L
   29 mg/dL
   114 mEq/L
   138 mEq/L
   32.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
   WBC
   11.6
   Hct
   32.8
   Plt
   192
   Cr
   1.7
   Glucose
   126
   Other labs: Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   Pt was admitted to ICU rather than floor post-op due to hypotension.
   Hypotension was thought to be related to A. fib with RVR with rates
   ranging from 110-120s. Pt received a total of 7L NS in the PACU over 7
   hours but was still noted to have a BP in the mid 70s, asymptomatic.
   Differential includes A. fib with RVR given his prior history, however
   would expect a more impressive rate to give such hypotension. Other
   differentials to consider include possible sepsis that could have
   occured peri-op, he was also noted to have leukocytosis prior to his
   operation. On review of his record he has had septic shock after GU
   procedures as well as a history of VRE, pan sensitive E.Coli. Pt's BP
   also noted to decrease after Diltiazem 120mg was given.   Pt mentating
   well currently. Changed abx of Vanc and Ceftriaxone to Ceftriaxone
   (given pansensitive in past for everything but VRE) and Linezolid (VRE
   coverage). Pt received Diltiazem and is on Morphine PCA which could
   also explain the hypotension. Hypotension could also be reaction to
   anaesthesia medications during surgery, would expect hypotension to
   improve once medications start to clear.
   - will add on diff to prior CBC
 clearly polymorphic predominant.
   - urine, bld culture
   - Bolus prn
   - start Ceftriaxone, Linezolid
   - if cx negative after 48hr would consider d/c'ing abx
   - trend leukocytosis and fever curve
   .
 ATRIAL FIBRILLATION (AFIB)
   Pt has history of A. fib with RVR post-op following a prior GU surgery
   performed in [**2127**]. On review of anaesthesia records it appears his A.
   fib was in the 100-120 range, he received a total of 9L NS as mentioned
   above as well as 2u PRBC. He received Diltiazem 120mg SR at [**2033**] with
   his rate responding 85-103. Pt currently NPO post-op and unable to
   receive meds. On review it appears pt required Amiodarone 150mg bolus
   and drip.
   - Currently doing well with Amiodarone bolus/drip
   - Would reintroduce home dilt if HR control needed in excess of
   amiodarone
   - Once amiodarone loaded would re-start home metoprolol and dilt
   - not anticoagulated given surgery, previously on Coumadin will d/w
   surgery re: restarting anticoagulation
   .
 CANCER (MALIGNANT NEOPLASM), OTHER
   s/p Ileal Conduit urinary diversion: Pt underwent  ileal conduit
   urinary diversion with removal of neobladder. Urology currently
   following pt, who is NPO per their recommendations.
   - f/u Urology recs
   - will keep NPO for now
   - Morphine PCA for pain control
 not using
   .
 LEUKOCYTOSIS
   Pt noted to have leukocytosis of 16.4 on admission. Unclear as to the
   etiology, pt does have h.o. of VRE colonization within his GU system,
   multiple infections. No fevers reported.   Polymorphic predominant
   today.
   - will pan culture as mentioned above
   - continue on Zosyn, Linezolid
   - trend Leukocytosis, fever curve
   .
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Renal Insufficiency: Pt currently sees a Nephrologist in [**Location (un) 755**] for
   his insufficiency. Prior to admission baseline Creatinine has ranged
   from 1.9-2.0. Prior Creatinine level of [**4-19**] was thought to be due to
   ATN from hypovolemia. Renal insufficiency is thought to be [**2-17**]
   obstruction from transitional bladder cell cancer with obstruction.
   - trend Creatinine
   - follow urine output
   .
   ##. Hyperchloremic Acidosis: Likely related to large volume
   resuscitation from NS.
   - continue to trend
   - if bolus required will use LR
   - monitor K+ whilst given LR given degree of renal insufficiency
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-24**] 05:43 AM
   Prophylaxis:
   DVT:  P.boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Floor once amio load is done if rate control is good.

2128-01-24 09:44:00 Physician Attending Progress Note
Chief Complaint: AFib, hypotension, metabolic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient being loaded with amiodarone. HR in 100-110 range with
   borderline BP. Patient had received 7L of fliud and 2 units of blood
   intraoperatively.
   HR now in 80-90's. BP 96/53.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2128-1-24**] 03:40 AM
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-24**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-24**] 09:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 126 (104 - 136) bpm
   BP: 93/55(64) {79/46(60) - 106/59(67)} mmHg
   RR: 22 (10 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
             850 mL
   PO:
             TF:
   IVF:
   850 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,030 mL
   Urine:
   980 mL
   NG:
   Stool:
   Drains:
   50 mL
   Balance:
                                                                      0 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few, scattered, bilaterally,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   192 K/uL
   126 mg/dL
   1.7 mg/dL
   16 mEq/L
   4.7 mEq/L
   29 mg/dL
   114 mEq/L
   138 mEq/L
   32.8 %
   11.6 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
   WBC
   11.6
   Hct
   32.8
   Plt
   192
   Cr
   1.7
   Glucose
   126
   Other labs: Ca++:8.3 mg/dL, Mg++:1.7 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), OTHER
 LEUKOCYTOSIS
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   =========================
   Heart rate improved (still afib) with initiation of amiodarone and
   diltiazem. BP low-normal, which is the patient's baseline pressure.
   Good urine output since arrival in ICU. Contiues on antibiotics for
   possible VRE sepsis, which he has had before. Transient bacteremia may
   be more likely cause of low BP, which is now back to baseline. Has not
   required any vasopressors. Complete amiodarone load.
   Metabolic, non-gap acidosis probably due to large volumes of normal
   saline fluid resuscitation. If additional fluids required, would use
   lactated Ringers.
   Creat now back to baseline.
   ICU Care
   Nutrition: oral
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-24**] 05:43 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments: Not appolicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2128-01-25 07:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - per urology, pt 7L positive from OR and PACU
   - appeared euvolemic so did not diurese
   - HR 100-140 on amio gtt
   - gave IV dilt 10mg once, no real response, SBP dropped slightly so did
   not repeat
   - need to discuss abx with urology in AM
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-24**] 04:00 AM
   Ceftriaxone - [**2128-1-24**] 10:00 AM
   Linezolid - [**2128-1-25**] 04:24 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Amiodarone - [**2128-1-24**] 08:45 AM
   Pantoprazole (Protonix) - [**2128-1-24**] 06:40 PM
   Diltiazem - [**2128-1-24**] 09:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-25**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 124 (94 - 132) bpm
   BP: 116/71(82) {90/53(61) - 120/78(86)} mmHg
   RR: 20 (11 - 22) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,738 mL
                                                                    485 mL
   PO:
             TF:
   IVF:
                                                                  1,738 mL
                                                                    485 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    600 mL
   Urine:
                                                                  3,190 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
   Balance:
                                                                 -1,503 mL
                                                                   -115 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, well appearing Caucasian Male in NAD
   HEENT: No scleral icterus. EOMI. MMM.
   CARDIAC: Irregularly, irregular, S1, S2, borderline tachy (110s)LUNGS:
   CTAB, good air movement biaterally.
   ABDOMEN: RLQ Ostomy noted with drain in place. B/l quadrants have JP
   drains. Abd dressing c/d/i.
   EXTREMITIES: No edema
   NEURO: A&Ox3. Appropriate. CN 2-12 grossly intact.
   PSYCH: Listens and responds to questions appropriately, pleasant
   Labs / Radiology
   216 K/uL
   10.6 g/dL
   214 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   33.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
                             [**2128-1-25**]  06:10 AM
   WBC
   11.6
   13.6
   Hct
   32.8
   33.0
   Plt
   192
   216
   Cr
   1.7
   1.6
   Glucose
   126
   214
   Other labs: PT / PTT / INR:14.0/25.4/1.2, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   Pt received a total of 7L NS in the PACU over 7 hours but was still
   noted to have a BP in the mid 70s, asymptomatic. Thought to be [**2-17**] AF
   with RVR. On review of his record he has had septic shock after GU
   procedures as well as a history of VRE, pan sensitive E.Coli. Pt's BP
   also noted to decrease after Diltiazem 120mg was given. Changed abx of
   Vanc and Ceftriaxone to Ceftriaxone (given pansensitive in past for
   everything but VRE) and Linezolid (VRE coverage). Pt has baseline low
   BP in 100s.
   - f/u urine, bld culture
   - held off IVF since BP stable at baseline and received volume in OR
   - cont Ceftriaxone, Linezolid per urology recs
   - if cx negative after 48hr would consider d/c'ing abx
   - trend leukocytosis and fever curve
   .
 ATRIAL FIBRILLATION (AFIB)
   Pt has history of A. fib with RVR post-op following a prior GU surgery
   performed in [**2127**]. On review of anaesthesia records it appears his A.
   fib was in the 100-120 range, he received a total of 9L NS as mentioned
   above as well as 2u PRBC. He received Diltiazem 120mg SR at [**2033**] with
   his rate responding 85-103. Pt currently NPO post-op and unable to
   receive meds. On review it appears pt required Amiodarone 150mg bolus
   and drip. Pt with rate in 120s on amio gtt, stable BPs. IV dilt did not
   improve rate significantly and it dropped BP.
   - Currently doing well with Amiodarone bolus/drip, will complete this
   AM
   - check EKG since appears more regular this AM
   - Once amiodarone loaded would re-start home metoprolol and dilt
   - restart warfarin
   .
 CANCER (MALIGNANT NEOPLASM), OTHER
   s/p Ileal Conduit urinary diversion: Pt underwent  ileal conduit
   urinary diversion with removal of neobladder. Urology currently
   following pt, who is NPO per their recommendations.
   - f/u Urology recs
   - will keep NPO for now
   - Morphine PCA for pain control
   .
 LEUKOCYTOSIS
   Pt noted to have leukocytosis of 16.4 on admission. Unclear as to the
   etiology, pt does have h.o. of VRE colonization within his GU system,
   multiple infections. No fevers reported.
   - will pan culture as mentioned above
   - continue on Zosyn, Linezolid
   - trend Leukocytosis, fever curve
   .
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Renal Insufficiency: Pt currently sees a Nephrologist in [**Location (un) 755**] for
   his insufficiency. Prior to admission baseline Creatinine has ranged
   from 1.9-2.0. Prior Creatinine level of [**4-19**] was thought to be due to
   ATN from hypovolemia. Renal insufficiency is thought to be [**2-17**]
   obstruction from transitional bladder cell cancer with obstruction.
   - trend Creatinine, improving today
   - follow urine output
   .
   ##. Hyperchloremic Acidosis: Likely related to large volume
   resuscitation from NS.
   - resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-24**] 05:43 AM
   Prophylaxis:
   DVT:  P.boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: Floor once amio load is done if rate control is good.

2128-01-25 11:30:00 Physician Attending Progress Note
Chief Complaint: AFib, tachycardia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HR remains at 115-125 range in Afib. Still being loaded with
   amiodarone.
   Afebrile overnight.
   Creat down slightly.
   24 Hour Events:
                                                  History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-24**] 04:00 AM
   Linezolid - [**2128-1-25**] 04:24 AM
   Ceftriaxone - [**2128-1-25**] 09:36 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-1-24**] 06:40 PM
   Diltiazem - [**2128-1-24**] 09:29 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-25**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (96.9
   HR: 113 (103 - 132) bpm
   BP: 103/75(82) {98/56(68) - 120/84(92)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,738 mL
                                                                    589 mL
   PO:
             TF:
   IVF:
                                                                  1,738 mL
                                                                    589 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    970 mL
   Urine:
                                                                  3,190 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
                                                                     50 mL
                                                                     50 mL
   Balance:
                                                                 -1,503 mL
                                                                   -381 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: Near surgical site, Obese, Diminished abdominal
   sounds
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   216 K/uL
   214 mg/dL
   1.6 mg/dL
   21 mEq/L
   3.6 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   33.0 %
   13.6 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
                             [**2128-1-25**]  06:10 AM
   WBC
   11.6
   13.6
   Hct
   32.8
   33.0
   Plt
   192
   216
   Cr
   1.7
   1.6
   Glucose
   126
   214
   Other labs: PT / PTT / INR:14.0/25.4/1.2, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: large heart. Improved basilar infiltrate at right.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ATRIAL FIBRILLATION (AFIB)
 CANCER (MALIGNANT NEOPLASM), OTHER
 LEUKOCYTOSIS
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   CHRONIC RENAL FAILURE
   ===============
   Tachycardia persists despite amiodarone. Had brief hypotension with IV
   diltiazem yesterday. BP better today. Will try IV diltiazem again now
   while continuing to load with amiodarone.
   Antibiotics to be stopped. Patient afebrile.
   Continue with negative fluid (0.5-1.5 L) balance; use lasix if
   necessary.
   Creat stable.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2128-1-24**] 05:43 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2128-01-26 07:10:00 Physician Resident Progress Note
Chief Complaint: narrow complex tachycardia
   24 Hour Events:
   - d/c'd antibiotics, pt got up out of bed, incentive spirometry
   - a. fib with RVR -> Cards consult -> d/c amio, start dilt gtt, PRN
   dilt IV boluses -> rate controlled on dilt 15 mg/hr
   - auto-diuresing today, reportedly 7-8 liters positive in OR
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2128-1-24**] 04:00 AM
   Linezolid - [**2128-1-25**] 04:24 AM
   Ceftriaxone - [**2128-1-25**] 09:36 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Diltiazem - [**2128-1-25**] 03:09 PM
   Other medications:
   Changes to medical and family history:
   not passing flatus, (-) chest pain, (-) SOB, in chair this morning, (-)
   n/v/d/f/c
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-26**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (96.9
   HR: 79 (79 - 128) bpm
   BP: 118/69(77) {100/30(54) - 141/91(153)} mmHg
   RR: 9 (9 - 19) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    695 mL
                                                                    106 mL
   PO:
             TF:
   IVF:
                                                                    695 mL
                                                                    106 mL
   Blood products:
   Total out:
                                                                  1,880 mL
                                                                    600 mL
   Urine:
                                                                  1,720 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                    160 mL
   Balance:
                                                                 -1,185 mL
                                                                   -494 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m,r,g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, incision c/d/i
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   231 K/uL
   10.6 g/dL
   119 mg/dL
   1.5 mg/dL
   22 mEq/L
   3.8 mEq/L
   25 mg/dL
   110 mEq/L
   143 mEq/L
   32.2 %
   13.5 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
                             [**2128-1-25**]  06:10 AM
                             [**2128-1-26**]  04:40 AM
   WBC
   11.6
   13.6
   13.5
   Hct
   32.8
   33.0
   32.2
   Plt
   192
   216
   231
   Cr
   1.7
   1.6
   1.5
   Glucose
   126
   214
   119
   Other labs: PT / PTT / INR:14.0/25.4/1.2, Ca++:8.6 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   .
 ATRIAL FIBRILLATION (AFIB)
   Pt has history of A. fib with RVR post-op following a prior GU surgery
   performed in [**2127**]. On review of anaesthesia records it appears his A.
   fib was in the 100-120 range, he received a total of 9L NS as mentioned
   above as well as 2u PRBC. He received Diltiazem 120mg SR at [**2033**] with
   his rate responding 85-103. Initially NPO post-op and unable to receive
   meds. On review it appears pt required Amiodarone 150mg bolus and drip.
   Pt with rate in 120s on amio gtt, stable BPs.  Volume overload may be
   contributing to difficulty with rate control, with increased
   sympathetic tone post-op contributing.   Started dilt gtt yesterday
   with good response, optimal control.
   - per Cardiology, amio poor choice given h/o recurrent a. fib
   - cont dilt gtt with plan to transition to dilt 90 mg PO QID when
   cleared by Urology
   - appreciate Cardiology recs
   - restarted warfarin
   - cont to allow pt to autodiurese and improve atrial stretch
   .
 HYPOTENSION (NOT SHOCK)
   Pt received a total of 7L NS in the PACU over 7 hours but was still
   noted to have a BP in the mid 70s, asymptomatic. Thought to be [**2-17**] AF
   with RVR. On review of his record he has had septic shock after GU
   procedures as well as a history of VRE, pan sensitive E.Coli. Pt's BP
   also noted to decrease after Diltiazem 120mg was given. Changed abx of
   Vanc and Ceftriaxone to Ceftriaxone (given pansensitive in past for
   everything but VRE) and Linezolid (VRE coverage). Pt has baseline low
   BP in 100s. Does not appear to be infected.   Cultures negative.
   Discontinued all antibiotics.  Hypotension resolved with improved rate
   control.
   .
 CANCER (MALIGNANT NEOPLASM), OTHER
   s/p Ileal Conduit urinary diversion: Pt underwent  ileal conduit
   urinary diversion with removal of neobladder. Urology currently
   following pt, who is NPO per their recommendations.
   - f/u Urology recs
   - PO meds, clears when passing flatus
   - Morphine IV PRN for pain control
   - IS, OOB, ambulate
   .
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Renal Insufficiency: Pt currently sees a Nephrologist in [**Location (un) 755**] for
   his insufficiency. Prior to admission baseline Creatinine has ranged
   from 1.9-2.0. Prior Creatinine level of [**4-19**] was thought to be due to
   ATN from hypovolemia. Renal insufficiency is thought to be [**2-17**]
   obstruction from transitional bladder cell cancer with obstruction.
   - will check urine creatinine from JP drain
   .
   ##. Hyperchloremic Acidosis: Likely related to large volume
   resuscitation from NS.
   - resolved
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2128-1-25**] 02:00 PM
   Prophylaxis:
   DVT:   warfarin
   Stress ulcer:   none
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition:  [**Hospital Unit Name 1**], possible call out today vs tomorrow once on PO meds

2128-01-27 06:45:00 Physician Resident Progress Note
Chief Complaint: a. fib with RVR
   24 Hour Events:
   -Started on PO dilt, well controlled
   -Still no BM's, flatus
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Linezolid - [**2128-1-25**] 04:24 AM
   Ceftriaxone - [**2128-1-25**] 09:36 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2128-1-26**] 04:00 PM
   Morphine Sulfate - [**2128-1-27**] 04:48 AM
   Other medications:
   Changes to medical and family history:
   no flatus, no BM, no chest pain/palpitations, no shortness of breath,
   (-) f/c, mild nausea
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: Abdominal pain, near incision
   Flowsheet Data as of  [**2128-1-27**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 91 (79 - 118) bpm
   BP: 143/39(67) {91/39(67) - 143/90(96)} mmHg
   RR: 11 (10 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
                  Total In:
                                                                    258 mL
                  PO:
                  TF:
   IVF:
                                                                    258 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    650 mL
   Urine:
                                                                  1,350 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
                                                                    350 mL
                                                                    100 mL
   Balance:
                                                                 -1,442 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   255 K/uL
   10.6 g/dL
   103 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.8 mEq/L
   30 mg/dL
   113 mEq/L
   146 mEq/L
   32.4 %
   9.8 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
                             [**2128-1-25**]  06:10 AM
                             [**2128-1-26**]  04:40 AM
                             [**2128-1-27**]  04:18 AM
   WBC
   11.6
   13.6
   13.5
   9.8
   Hct
   32.8
   33.0
   32.2
   32.4
   Plt
   192
   216
   231
   255
   Cr
   1.7
   1.6
   1.5
   1.3
   Glucose
   126
   214
   119
   103
   Other labs: PT / PTT / INR:20.0/26.8/1.8, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   .
 ATRIAL FIBRILLATION (AFIB)
   Pt has history of A. fib with RVR post-op following a prior GU surgery
   performed in [**2127**]. On review of anaesthesia records it appears his A.
   fib was in the 100-120 range, he received a total of 9L NS as mentioned
   above as well as 2u PRBC. He received Diltiazem 120mg SR at [**2033**] with
   his rate responding 85-103. Initially NPO post-op and unable to receive
   meds. On review it appeared pt required Amiodarone 150mg bolus and
   drip. Pt with rate in 120s on amio gtt, stable BPs.  Volume overload
   may be contributing to difficulty with rate control, with increased
   sympathetic tone post-op contributing.   Started dilt gtt yesterday
   with good response, optimal control.  Now discontinued dilt gtt,
   converted to and increased dilt to 120 mg PO QID
   - per Cardiology, amio poor choice given h/o recurrent a. fib
   - dilt 120 mg PO QID
   - appreciate Cardiology recs
   - cont warfarin
   - cont to allow pt to autodiurese and improve atrial stretch
   .
 HYPOTENSION (NOT SHOCK)
   Pt received a total of 7L NS in the PACU over 7 hours but was still
   noted to have a BP in the mid 70s, asymptomatic. Thought to be [**2-17**] AF
   with RVR. On review of his record he has had septic shock after GU
   procedures as well as a history of VRE, pan sensitive E.Coli. Pt's BP
   also noted to decrease after Diltiazem 120mg was given. Changed abx of
   Vanc and Ceftriaxone to Ceftriaxone (given pansensitive in past for
   everything but VRE) and Linezolid (VRE coverage). Pt has baseline low
   BP in 100s. Does not appear to be infected.   Cultures negative.
   Discontinued all antibiotics.  Hypotension resolved with improved rate
   control.
   .
 CANCER (MALIGNANT NEOPLASM), OTHER
   s/p Ileal Conduit urinary diversion: Pt underwent  ileal conduit
   urinary diversion with removal of neobladder. Urology currently
   following pt, who is NPO per their recommendations.
   - f/u Urology recs
   - PO meds, clears, encourage ambulation
   - MSIR for pain control
   - IS, OOB, ambulate
   - recheck creatinine level from drain today
   .
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Renal Insufficiency: Pt currently sees a Nephrologist in [**Location (un) 755**] for
   his insufficiency. Prior to admission baseline Creatinine has ranged
   from 1.9-2.0. Prior Creatinine level of [**4-19**] was thought to be due to
   ATN from hypovolemia. Renal insufficiency is thought to be [**2-17**]
   obstruction from transitional bladder cell cancer with obstruction.
   .
   ##. Hyperchloremic Acidosis: Likely related to large volume
   resuscitation from NS.  Resolved.
   .
   ##.  Hypernatremia:  likely [**2-17**] limited PO intake, output.  Should
   improve with clears.  Repleted potassium with D5W 500 cc today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2128-1-26**] 08:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:  none
   VAP:   none
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition:  to floor later today

2128-01-28 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: - HR in 40s after increased dose dilt (120mg), held
   afternoon dose and resumed 90 mg overnight
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2128-1-25**] 09:36 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2128-1-27**] 10:43 AM
   Pantoprazole (Protonix) - [**2128-1-27**] 08:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-28**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**30**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 69 (48 - 127) bpm
   BP: 117/69(81) {89/15(45) - 135/92(99)} mmHg
   RR: 12 (8 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 69 Inch
                  Total In:
                                                                  1,230 mL
                  PO:
                                                                    720 mL
                  TF:
   IVF:
                                                                    510 mL
   Blood products:
   Total out:
                                                                  2,135 mL
                                                                    700 mL
   Urine:
                                                                  1,705 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
                                                                    430 mL
                                                                    100 mL
   Balance:
                                                                   -905 mL
                                                                   -700 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, irregularly
   irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   243 K/uL
   9.9 g/dL
   90 mg/dL
   1.3 mg/dL
   26 mEq/L
   3.5 mEq/L
   26 mg/dL
   111 mEq/L
   142 mEq/L
   30.8 %
   5.9 K/uL
        [image002.jpg]
                             [**2128-1-24**]  04:34 AM
                             [**2128-1-25**]  06:10 AM
                             [**2128-1-26**]  04:40 AM
                             [**2128-1-27**]  04:18 AM
                             [**2128-1-28**]  05:51 AM
   WBC
   11.6
   13.6
   13.5
   9.8
   5.9
   Hct
   32.8
   33.0
   32.2
   32.4
   30.8
   Plt
   192
   216
   231
   255
   243
   Cr
   1.7
   1.6
   1.5
   1.3
   1.3
   Glucose
   126
   214
   119
   103
   90
   Other labs:
   PT: 41.2
   PTT: 30.7
   INR: 4.3
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   Pt has history of A. fib with RVR post-op following a prior GU surgery
   performed in [**2127**]. Patient was initially controlled on  amiodarone
   150mg bolus and drip, as he had during prior course. Pt was 7L positive
   after OR, and volume overload may have contributed to difficulty with
   rate control, with increased sympathetic tone post-op.   Was on dilt
   gtt and now is converted to dilt to 90 mg PO QID. Got one dose 120 mg
   dilt yesterday and became bradycardic to 40s, asymptomatic.
   - dilt 90 mg PO QID
   - cont warfarin
   - pt autodiuresing, goal negative 500-1000cc
   - INR supratherapeutic today, hold coumadin
   .
   ##. HCT DROP: Concerning in setting of elevated INR. AB exam unchanged
   and no GI bleeding.
   - monitor [**Hospital1 7**] Hcts
   .
 HYPOTENSION (NOT SHOCK)
   Pt received a total of 7L NS in the PACU over 7 hours but was still
   noted to have a BP in the mid 70s, asymptomatic. Thought to be [**2-17**] AF
   with RVR. On review of his record he has had septic shock after GU
   procedures as well as a history of VRE, pan sensitive E.Coli. Pt
   received empiric Ceftriaxone (given pansensitive in past for everything
   but VRE) and Linezolid (VRE coverage) peri-op. Cx remained negative and
   discontinued all antibiotics.  Hypotension resolved with improved rate
   control.
   .
 CANCER (MALIGNANT NEOPLASM), OTHER
   s/p Ileal Conduit urinary diversion: Pt underwent  ileal conduit
   urinary diversion with removal of neobladder. Urology currently
   following pt, who is on sips per their recommendations.
   - f/u Urology recs
   - PO meds, sips, encourage ambulation
   - MSIR for pain control
   - IS, OOB, ambulate
   .
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   Renal Insufficiency: Pt currently sees a Nephrologist in [**Location (un) 755**] for
   his insufficiency. Prior to admission baseline Creatinine has ranged
   from 1.9-2.0. Prior Creatinine level of [**4-19**] was thought to be due to
   ATN from hypovolemia. Renal insufficiency is thought to be [**2-17**]
   obstruction from transitional bladder cell cancer with obstruction.
   .
   ##. ILEUS: Patient has not passed flatus post-op. Per urology, there
   were many adhesions and parts of bowel had to be dissected free from
   peritoneum, so not surprising to have ileus. He should remain on only
   sips of clears.
   - sips
   - monitor ab exam
   ICU Care
   Nutrition: sips
   Glycemic Control:
   Lines:
   22 Gauge - [**2128-1-26**] 08:00 PM
   Prophylaxis:
   DVT:  warfarin
   Stress ulcer:  pantoprazole
   VAP:   none
   Comments:
   Communication:  Comments:
   Code status:   full
   Disposition:  to floor later today